US08895582B2
To a solution of (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)pent-4-en-2-yl(methyl)carbamate (10.5 g, 31.9 mmol) in DCM (100 mL) was added 2,6-lutidine (4.8 mL, 41.4 mmol) followed by TMSOTf (7.5 mL, 41.4 mmol). The resulting solution was stirred at RT for 30 min. The solvent was removed and the remaining residue was dried under vacuum to give (S)-1-(tert-butyldimethylsilyloxy)-N-methylpent-4-en-2-amine, which was used without further purification. LRMS (M+H+) m/z 230.2.

reactant | (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)pent-4-en-2-yl(methyl)carbamate | 31.9 mmol, 10.5 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CC=C)N(C(OC(C)(C)C)=O)C | C17H35NO3Si
reactant | 2,6-lutidine | 41.4 mmol, 4.8 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | TMSOTf | 41.4 mmol, 7.5 mL | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-(tert-butyldimethylsilyloxy)-N-methylpent-4-en-2-amine | [Si](C)(C)(C(C)(C)C)OC[C@H](CC=C)NC | C12H27NOSi
